US08017779B2
A solution of 7-bromo-N4-(2-methylpropyl)[1,5]naphthyridine-3,4-diamine (22.29 g, 75.51 mmol) in dichloromethane (300 mL) was cooled to 0° C., and triethylamine (13.15 mL, 94.39 mmol) was added to the reaction mixture. Ethoxyacetyl chloride (11.56 g, 94.39 mmol) was added dropwise to the reaction mixture, and the reaction was maintained at ambient temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure, triethylamine (52.62 mL, 377.6 mmol) and ethanol (250 mL) was added, and the resulting mixture was heated at reflux for 16 hours. The solvent was removed under reduced pressure and the residue was triturated with n-heptanes. The resulting precipitate was collected by filtration, washed with water, and dried. The product was then recrystallized from acetonitrile to yield 14 g of 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine as an off-white solid. The mother liquor was concentrated, and the residue was recrystallized from acetonitrile to yield an additional 2.37 g of 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine. The n-heptanes fraction from the trituration was concentrated under reduced pressure, triturated with acetonitrile, and isolated by filtration to give an additional 0.88 g of 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine, for a total yield of 17.25 g of an off-white solid, mp 115-116° C.

reactant | 7-bromo-N4-(2-methylpropyl)[1,5]naphthyridine-3,4-diamine | 75.51 mmol, 22.29 g | BrC1=CN=C2C(=C(C=NC2=C1)N)NCC(C)C | C12H15BrN4
reactant | triethylamine | 94.39 mmol, 13.15 mL | C(C)N(CC)CC | C6H15N
reactant | Ethoxyacetyl chloride | 94.39 mmol, 11.56 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 377.6 mmol, 52.62 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 250 mL | C(C)O | C2H6O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridine | 14 g | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)C)COCC | C16H19BrN4O
